US06531475B1
2,4-Dichloro-3-hydroxymethyl-6-methylpyridine (11 ′)
Ethyl 2,4-dichloro-6-methylnicotinate (10′) (8.04 g, 34.3 mmol) was dissolved in THF (40 mL) and added to a stirred suspension of LAH (6.52 g, 170 mmol) in THF (80 mL) at −78° C. The mixture was stirred for 6 h at this temperature and 1 h at −30° C. and treated cautiously with water (5.5 mL), 15% aqueous NaOH (5.5 mL) and water (16.5 mL) with vigorous stirring. The mixture was warmed to room temperature and filtered. The white precipitate was washed liberally with ethyl acetate. The combined organic portions were dried (MgSO4) and concentrated under vacuum to afford 6.40 g (97%) of(11′) as a colorless oil which solidified on standing: LCMS (MH+, 192).

reactant | Ethyl 2,4-dichloro-6-methylnicotinate | ClC1=C(C(=O)OCC)C(=CC(=N1)C)Cl | C9H9Cl2NO2
reactant | LAH | 170 mmol, 6.52 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 5.5 mL | O | H2O
reactant | NaOH | 5.5 mL | [OH-].[Na+]
reactant | water | 16.5 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2,4-Dichloro-3-hydroxymethyl-6-methylpyridine | ClC1=NC(=CC(=C1CO)Cl)C | C7H7Cl2NO
